US05602171
6.5. Example 5: 5,6-Dihydroxy-8-dimethylaminocarbonyloxy-9-(5,6-dihydroxy-8-dimethylaminocarbonyloxy-2-methyl-4H-naphtho[2,3,b]pyran-4-one-9-yl)-2-methyl-4H-naphtho[2,3,b]pyran-4-one (Compound 5)
A mixture of 50 mg of 2-methyl-5,6,8-trihydroxy-9-(5,6,8-trihydroxy-2-methyl-4H-naphtho[2,3,b]pyran-4-one-9yl)-4H-naphtho[2,3,b]pyran-4-one in 2 ml of pyridine at 0° C. was added with 0.02 ml of dimethylcarbamoyl chloride. The mixture was then stirred at 0° C. for 2 hours and warmed to room temperature overnight. The mixture was quenched with 1 ml of 0.1N sodium hydroxide solution, stirred for 20 minutes and partitioned between chloroform and water. The chloroform layer was then washed with diluted hydrochloric acid solution, saturated sodium bicarbonate solution, brine, dried over sodium sulfate, filtered and concentrated. The resulting solid was purified on HPLC on a C-18 silical gel column to provide the title compound.

reactant | 2-methyl-5,6,8-trihydroxy-9-(5,6,8-trihydroxy-2-methyl-4H-naphtho[2,3,b]pyran-4-one-9yl)-4H-naphtho[2,3,b]pyran-4-one | 50 mg | CC1=CC(C2=C(O1)C=C1C(=C(C=C(C1=C2O)O)O)C2=C(C=C(C1=C(C3=C(OC(=CC3=O)C)C=C21)O)O)O)=O | C28H18O10
reactant | dimethylcarbamoyl chloride | 0.02 ml | CN(C(=O)Cl)C | C3H6ClNO
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 5,6-Dihydroxy-8-dimethylaminocarbonyloxy-9-(5,6-dihydroxy-8-dimethylaminocarbonyloxy-2-methyl-4H-naphtho[2,3,b]pyran-4-one-9-yl)-2-methyl-4H-naphtho[2,3,b]pyran-4-one | OC1=C2C(=CC(=C(C2=CC=2OC(=CC(C21)=O)C)C2=C(C=C(C1=C(C3=C(OC(=CC3=O)C)C=C21)O)O)OC(=O)N(C)C)OC(=O)N(C)C)O | C34H28N2O12
